US04726941
Example 13. N-Benzoyl-L-leucylcyanamide (11)
DCC (2.41 g, 0.0117 mol) and N-hydroxysuccinimide (1.35 g, 0.0117 mol) were added to a solution of N-benzoyl-L-leucine (2.75 g, 0.0117 mol) in 100 ml of acetonitrile at ice bath temperature. The reaction was allowed to proceed at this temperature for 2 hours. The reaction mixture was filtered to remove the bulk of the DCU and the filtrate was evaporated in vacuo to dryness. The resulting semi-solid residue was redissolved in THF and the mixture filtered to remove any residual DCU. The filtrate was evaporated in vacuo to give crude N-benzoyl-L-leucine N-hydroxysuccinimide ester as a foamy residue. IR (neat, cm-1) 3340 NH), 3060 (C6H5), 1820, 1790, 1740 and 1650 (C=O); NMR (Silanor C, δ from TMS) 7.3-7.9 (m, C6H5), 5.1-5.3 (m, --NH--CH--C=O), 2.8 (s, cycl. --CH2 --CH2 --), 1.6-2.2 (m, CH--CH2 --), 0.9-1.1 (d, (CH3)3CH). This was dissolved in 100 ml of THF and added drop-wise to a solution of sodium cyanamide (1.50 g, 0.0234 mol) in 100 ml of distilled water at ice bath temperature. The reaction was allowed to proceed at room temperature for 24 hours. The reaction mixture was then concentrated in vacuo to half its original volume and filtered. The filtrate (pH 9) was extracted with ethyl acetate (2×50 ml). The aqueous layer was separated, acidified to pH 1.5 with 10% HCl, and extracted with methylene chloride (3×50 ml). The methylene chloride extract was dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated in vacuo to give 2.80 g (92.4% yield) of crude product as a tacky white solid. This was triturated with diethyl ether and collected to give 1.30 g (42.9% yield of white powdery 11, mp 136°-137° C. [α]D23 +0.7°(c 1.0, CH3OH); TLC: Rf =0.93 in EtOAc/petroleum ether/THF/CH2Cl2 / AcOH (50:50:10:50:4) and 0.24 in EtOAc/petroleum ether/AcOH (50:100:1), detected by UV quenching and orange color with ferricyanide spray reagent; IR (Nujol, cm-1) 3300, 3100 (NH), 2230 (C≡N), 1750 and 1630 (C=O); NMR (Silanor-DMSO, δ from TMS) 7.4-8.0 (d, C6H5 --), 4.2-4.6 (m, --NH--CH--C=O), 1.4-1.9 (m, CH--CH2 --), 0.8-1.1 (d, (CH3)2CH--) Anal. Calcd for C14H17N3O2 : C, 64.85; H, 6.61; N, 16.20. Found C, 64.62; H, 6.73; N, 15.93.

reactant | DCC | 0.0117 mol, 2.41 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-hydroxysuccinimide | 0.0117 mol, 1.35 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-benzoyl-L-leucine | 0.0117 mol, 2.75 g | C(C1=CC=CC=C1)(=O)N[C@@H](CC(C)C)C(=O)O | C13H17NO3
reactant | sodium cyanamide | 0.0234 mol, 1.50 g | N#CN.[Na]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N-Benzoyl-L-leucylcyanamide | 42.9% yield | C(C1=CC=CC=C1)(=O)N[C@@H](CC(C)C)C(=O)NC#N | C14H17N3O2
